### PR TITLE
[Merged by Bors] - chore(MvPolynomial): rename a lemma using prime

### PR DESCRIPTION
**Pull request by WenrongZou**
This PR renames a lemma by adding a prime. Many other lemmas in (mv)polynomial theory also use a prime in their names for the same reason — their primed versions should be rewritten in the `xxx_eq_ite` form.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by WenrongZou** [comment]
easy

**Comment by NoahW314** [comment]
What about instead renaming `coeff_X'` to `coeff_X` and renaming `coeff_X` to something like `coeff_single_X`? This way, `MvPolynomial.coeff_X` has the same form as `(Mv)PowerSeries.coeff_X` and `Polynomial.coeff_X`.

**Comment by WenrongZou** [comment]
You are right. But I don't know how to add `deprecation` when use a new name which already exists in mathlib. Let's wait for more opinions.

**Comment by ocfnash** [comment]
Thank you for working on this. This onus has to be on the author to move this forward so I am labeling as such as part of routine PR triage.

**Comment by WenrongZou** [comment]
I rename `coeff_X'` to `coeff_X` and `coeff_X` to `coeff_index_single_self_X`(this is inspired by [`MvPowerSeries.coeff_index_single_self_X`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/MvPowerSeries/Basic.html#MvPowerSeries.coeff_index_single_self_X)). I add a deprecation and warning, since we can not add the deprecation of `coeff_X` to `coeff_index_single_self_X`. Could you please have a look? Thanks! @ocfnash

**Comment by WenrongZou** [comment]
-awaiting-author

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 1]
```diff
@@ -616,13 +616,19 @@ theorem coeff_X_pow [DecidableEq σ] (i : σ) (m) (k : ℕ) :
...
-theorem coeff_X' [DecidableEq σ] (i : σ) (m) :
+theorem coeff_X [DecidableEq σ] (i : σ) (m) :
     coeff m (X i : MvPolynomial σ R) = if Finsupp.single i 1 = m then 1 else 0 := by
   rw [← coeff_X_pow, pow_one]
 
+@[deprecated (since := "2026-05-25")]
+alias coeff_X' := coeff_X
+
+/-- Warning: `coeff_index_single_self_X` used to be `coeff_X`, deprecated (since := "2026-05-25")
+-/
```
Comment (ocfnash) [inline Mathlib/Algebra/MvPolynomial/Basic.lean]: Let's just drop this warning.
```suggestion
```

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 2]
```diff
@@ -616,13 +616,19 @@ theorem coeff_X_pow [DecidableEq σ] (i : σ) (m) (k : ℕ) :
...
 @[simp]
-theorem coeff_X (i : σ) : coeff (Finsupp.single i 1) (X i : MvPolynomial σ R) = 1 := by
-  classical rw [coeff_X', if_pos rfl]
+theorem coeff_index_single_self_X (i : σ) :
```
Comment (ocfnash) [inline Mathlib/Algebra/MvPolynomial/Basic.lean]: How about:
```suggestion
theorem coeff_X_same (i : σ) :
```

File: Mathlib/Algebra/MvPolynomial/Basic.lean (hunk 1 above)
Comment (WenrongZou) [reply Mathlib/Algebra/MvPolynomial/Basic.lean]: OK. Thanks for your advice!

**Comment by WenrongZou** [comment]
Thanks for your reviews!
-awaiting-author

**Review by ocfnash — APPROVED** [review]
bors merge
